US04152441
Using the procedure described in Example VIC but substituting an equivalent amount of α,α-bis(p-fluorophenyl)-1-(methoxymethyl)imidazole-2-methanol for the 1-[(benzyloxy)-methyl]-α-(p-chlorophenyl)-α-phenylimidazole-2-methanol, α,α-bis(p-fluorophenyl)imidazole-2-methanol was obtained. Melting point 198°-200° C.

reactant | α,α-bis(p-fluorophenyl)-1-(methoxymethyl)imidazole-2-methanol | FC1=CC=C(C=C1)C(O)(C=1N(C=CN1)COC)C1=CC=C(C=C1)F | C18H16F2N2O2
reactant | 1-[(benzyloxy)-methyl]-α-(p-chlorophenyl)-α-phenylimidazole-2-methanol | C(C1=CC=CC=C1)OCN1C(=NC=C1)C(O)(C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C24H21ClN2O2
product | α,α-bis(p-fluorophenyl)imidazole-2-methanol | FC1=CC=C(C=C1)C(O)(C=1NC=CN1)C1=CC=C(C=C1)F | C16H12F2N2O
